US03985740
D. 4,5-Dimethylthiazole-2-thiolcarboxylic acid dicyclohexylamine salt
To a slurry of 19.0 g. (0.121 mole) of 4,5-dimethylthiazole-2-carboxylic acid in 250 ml. of dry methylene chloride was added over 1 hour 10.3 ml. (0.121 mole) of oxalyl chloride. The reaction mixture was stirred at room temperature for 1 hour and was refluxed for 2 hours. The small amount of insoluble material was removed by filtration and the filtrate was concentrated under reduced pressure to a yellow oil. Infrared spectrum indicated this to be the desired acid chloride. This was added dropwise to a stirred and cooled solution of 26.4 g. (0.24 mole) of hydrated sodium sulfhydrate in 275 ml. of ethanol and 30 ml. of water at such a rate as to keep the temperature of the mixture at 10°-15°. After the addition was completed, the reaction mixture was stirred for 40 minutes at 5°-10°. Then most of the ethanol was removed under reduced pressure and the residue was dissolved in 150 ml. of water. The pH of the solution was lowered to 2.5 with 6N hydrochloric acid and was maintained there, while the mixture was extracted with 5 × 100 ml. of ethyl acetate. The extracts were combined, washed with ice water, dried over magnesium sulfate, filtered and evaporated to dryness to give 10.6 g. of a reddish solid. It was dissolved in 200 ml. of hot ethanol and 7.5 ml. of dicyclohexylamine were added. Bright yellow crystals resulted. The mixture was cooled at 5° for 1 hour. Then the precipitate was removed by filtration, washed with ether and dried under high vacuum to give 11.75 g. (27%) of a yellow solid. NMR spectrum was consistent with the desired material.

reactant | 4,5-dimethylthiazole-2-carboxylic acid | 0.121 mole | CC=1N=C(SC1C)C(=O)O | C6H7NO2S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 0.121 mole | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4,5-Dimethylthiazole 2-thiolcarboxylic acid dicyclohexylamine salt | CC=1N=CSC1C.C1(CCCCC1)NC1CCCCC1.S1C(=CC=C1)C(=O)O | InChI=1S/C12H23N.C5H7NS.C5H4O2S/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;1-4-5(2)7-3-6-4;6-5(7)4-2-1-3-8-4/h11-13H,1-10H2;3H,1-2H3;1-3H,(H,6,7)
